US05380852
4.75 g (0.02 mol) of 5-chloroquinolin-8-oxyacetate are suspended in 50 ml of tetrahydrofuran, 3.2 g (0.02 mol) of N,N'-carbonyldiimidazole are added and the suspension is heated to 50° C. until the evolution of gas has ended. A solution of 2.62 g (0.02 mol) of 1-isopropylideneaminooxy-2-propanol and 50 mg of sodium in 10 ml of tetrahydrofuran (THF) is added dropwise to this suspension and the mixture is heated under reflux. After the reaction, the THF is stripped off under reduced pressure, the residue is taken up in ethyl acetate and the solution is washed with 5% strength NaOH and NaCl solution. The organic phase is dried over MgSO4 and concentrated and the residue is recrystallized from heptane. 3.6 g (45.6% of theory) of 1-isopropylideneaminooxy-2-propyl 5-chloroquinolin-8-oxyacetate of melting point 102° C. are obtained.

reactant | 5-chloroquinolin-8-oxyacetate | 0.02 mol, 4.75 g | ClC1=C2C=CC=NC2=C(C=C1)OCC(=O)[O-]
reactant | 1-isopropylideneaminooxy-2-propanol | 0.02 mol, 2.62 g | C(C)(C)=NOCC(C)O | C6H13NO2
reactant | sodium | 50 mg | [Na] | Na
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-isopropylideneaminooxy-2-propyl 5-chloroquinolin-8-oxyacetate | 3.6 g, 45.6% | ClC1=C2C=CC=NC2=C(C=C1)OCC(=O)OC(CON=C(C)C)C | C17H19ClN2O4
